US08802697B2
Synthesis of imidazo[1,2-a]pyridine-8-carbonitrile
To a solution of 2-aminonicotinonitrile (1.0 g, 8.39 mmol) in EtOH (10 ml) in a 20 ml sealed vial was added 2-chloroacetaldehyde (1.611 ml, 9.23 mmol) vial was then sealed and heated to 120° C. overnight. Reaction was cooled to RT and quenched with 2N Na2CO3, removed EtOH in vaccuo and extracted with DCM×3. Combined organics and washed with water then brine×2. Dired over sodium sulfate and removed solvent to give title compound as a yellow brown solid (1.2 g, 8.38 mmol, 100% yield) was verified by MS (ES+) C8H5N3 requires: 143 found: 144 [M+H]+

reactant | 2-aminonicotinonitrile | 8.39 mmol, 1.0 g | NC1=C(C#N)C=CC=N1 | C6H5N3
reactant | 2-chloroacetaldehyde | 9.23 mmol, 1.611 ml | ClCC=O | C2H3ClO
solvent | EtOH | 10 ml | CCO | C2H6O
product | imidazo[1,2-a]pyridine-8-carbonitrile | 8.38 mmol, 1.2 g, 100% yield | N=1C=CN2C1C(=CC=C2)C#N | C8H5N3
